US04435406
16.9 g of 1-methyl-2,3-diamino-naphthalene (crude base) were suspended in 250 ml of alcohol in a 500 ml sulfonation flask equipped with stirrer, thermometer and reflux condenser and, after adding 25 ml of water as well as 18.8 g of potassium ethylxanthate, recrystallized from isopropanol, boiled at reflux overnight. The insoluble particles were removed by filtration, the solution was diluted with 200 ml of water and made neutral with 10-15 ml of glacial acetic acid. After stirring at 60°-70° C. for 1 hour, the mixture was cooled and suction filtered. There were obtained 10.2 g (48.5% of theory) of 4-methyl-1H-naphth(2,3-d)imidazole-2-thiol with a melting point above 300° C.

reactant | 1-methyl-2,3-diamino-naphthalene | 16.9 g | CC1=C(C(=CC2=CC=CC=C12)N)N | C11H12N2
reactant | potassium ethylxanthate | 18.8 g | C(C)OC(=S)[S-].[K+]
solvent | water | 25 ml | O | H2O
product | 4-methyl-1H-naphth(2,3-d)imidazole-2-thiol | 10.2 g, 48.5% | CC1=C2C=CC=CC2=CC=2NC(=NC21)S | C12H10N2S
